US06521643B1
To a suspension of N-(3-(4-methylpyridin-2-yl)phenyl)-N′-benzoylthiourea (540 mg) in methanol (5 ml) was added an aqueous sodium hydroxide solution (1N, 1.55 ml) dropwise. The mixture was stirred at 60° C. for 1 hour, cooled to ambient temperature, and the pH was adjusted to 8.0 with 1N hydrochloric acid. The mixture was diluted with water (50 ml) and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was triturated with diisopropyl ether, collected by filtration, washed with diisopropyl ether and dried under reduced pressure to give N-(3-(4-methylpyridin-2-yl)phenyl)thiourea (356 mg).

reactant | N-(3-(4-methylpyridin-2-yl)phenyl)-N′-benzoylthiourea | 540 mg | CC1=CC(=NC=C1)C=1C=C(C=CC1)NC(=S)NC(C1=CC=CC=C1)=O | C20H17N3OS
reactant | sodium hydroxide | 1N, 1.55 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | N-(3-(4-methylpyridin-2-yl)phenyl)thiourea | 356 mg | CC1=CC(=NC=C1)C=1C=C(C=CC1)NC(=S)N | C13H13N3S
